US05922751
5-(3-Cyclopentyloxy-4-methoxybenzylamino)-1,2,3-triazole
To a stirred solution of 5-amino-1,2,3-triazole (3.0 g, 0.036 mol) in 100 ml of methanol and 15 ml of 1N HCl was added sodium cyanoborohydride (1.89 g, 0.030 mol) and 3-cyclopentyloxy-4-methoxybenzaldehyde (6.6 g, 0.30 mol). The reaction mixture was stirred at room temperature for 64 hours and then acidified to pH 2 with concentrated HCl. The solution was evaporated at reduced pressure and the residue was treated with water (100 ml) and extracted twice with 100 ml portions of ethyl acetate. The ethyl acetate extracts were combined and extracted twice with 50 ml portions of 3N HCl and then discarded. The aqueous extracts were combined with the original aqueous layer and basified to pH 12 with potassium hydroxide pellets. The alkaline solution was extracted twice with 100 ml portions of ethyl acetate. The ethyl acetate extracts were combined and evaporated to give a solid which was crystallized from ethyl acetate to give 2.9 g (34%) of the title compound mp 113-114° C. collected in two crops.

reactant | 5-amino-1,2,3-triazole | 0.036 mol, 3.0 g | NC1=CN=NN1 | C2H4N4
reactant | sodium cyanoborohydride | 0.030 mol, 1.89 g | C(#N)[BH3-].[Na+]
reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 0.30 mol, 6.6 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
solvent | methanol | 100 ml | CO | CH4O
solvent | HCl | 1N, 15 ml | Cl | ClH
product | 5-(3-Cyclopentyloxy-4-methoxybenzylamino)-1,2,3-triazole | 2.9 g, 34% | C1(CCCC1)OC=1C=C(CNC2=CN=NN2)C=CC1OC | C15H20N4O2
